US06492392B1
3,4,5-Trihydroxybenzaldehyde (628 mg, 3.6 mmol) was dissolved in dimethylformamide (30 mL), and potassium carbonate (2.0 g, 14 mmol) was added thereto, followed by stirring at room temperature for 30 minutes. Next, chloromethyl methyl ether (0.96 mL, 13 mmol) was added thereto, followed by stirring at room temperature for 2 hours. After the conventional post-treatment, the residue was purified by preparative thin layer chromatography (developed with chloroform/methanol=98/2) to give 3-hydroxy-4,5-bis(methoxymethoxy)benzaldehyde (140 mg, yield 17%).

reactant | 3,4,5-Trihydroxybenzaldehyde | 3.6 mmol, 628 mg | OC=1C=C(C=O)C=C(C1O)O | C7H6O4
reactant | potassium carbonate | 14 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl ether | 13 mmol, 0.96 mL | COCCl | C2H5ClO
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-hydroxy-4,5-bis(methoxymethoxy)benzaldehyde | 140 mg, yield 17% | OC=1C=C(C=O)C=C(C1OCOC)OCOC | C11H14O6
